US08012998B2
a) 6-{(S)-1-[(3R,4S)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile (XI-B-10)
To a stirred solution of 88 mg (0.26 mmol) of (S)-1-[(3R,4S)-1-benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol in DMF (6 mL) was added NaH (19 mg, 0.40 mmol). The reaction mixture was stirred at RT for 30 minutes, and then at 50° C. for 20 minutes. A solution of 6-chloro-nicotinonitrile (45 mg, 0.32 mmol) in DMF (2 mL) was added dropwise and stirring was continued 3 hours at 50° C. The reaction mixture was concentrated under vacuo. Extraction with EtOAc/H2O, followed by column chromatography (SiO2, EtOAc/H, 1:3) yielded 100 mg (87%) of the title compound as a colorless oil. ES-MS m/e: 436.2 (M+H+).

reactant | (S)-1-[(3R,4S)-1-benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol | 0.26 mmol, 88 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)Cl)F)[C@H](C)O | C19H21ClFNO
reactant | NaH | 0.40 mmol, 19 mg | [H-].[Na+]
reactant | 6-chloro-nicotinonitrile | 0.32 mmol, 45 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-{(S)-1-[(3R,4S)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile | 100 mg, 87% | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)Cl)F)[C@H](C)OC1=NC=C(C#N)C=C1 | C25H23ClFN3O
